US07858718B1
N-(2-Methyl-1-naphthyl)-2-(1-naphthyl)-8-quinolinamine
A mixture of 8-bromo-2-(1-naphthyl)quinoline (3.25 g, 9.7 mmol), 2-methyl-1-naphthalenamine (1.76 g, 11.2 mmol), Pd(dba)2 (0.12 g, 0.2 mmol), L=(N-[2′-(dicyclohexylphosphino)[1,1′-biphenyl]-2-yl]-N,N-dimethylamine (0.15 g, 0.4 mmol), NaOtBu (1.15 g, 12 mmol) and toluene (20 mL) is stirred for 8 h under an argon atmosphere at 100° C. in oil bath. The mixture is then poured into water and extracted with benzene (3×40 mL). The combined organic phases are washed with water and brine and then concentrated. The residue is purified by column chromatography (silica gel 40, hexane/toluene 4:1). Yield 3.1 g (78%).

reactant | 8-bromo-2-(1-naphthyl)quinoline | 9.7 mmol, 3.25 g | BrC=1C=CC=C2C=CC(=NC12)C1=CC=CC2=CC=CC=C12 | C19H12BrN
reactant | 2-methyl-1-naphthalenamine | 11.2 mmol, 1.76 g | CC1=C(C2=CC=CC=C2C=C1)N | C11H11N
reactant | N-[2′-(dicyclohexylphosphino)[1,1′-biphenyl]-2-yl]-N,N-dimethylamine | 0.4 mmol, 0.15 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | NaOtBu | 12 mmol, 1.15 g | CC(C)(C)[O-].[Na+]
catalyst | Pd(dba)2 | 0.2 mmol, 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Methyl-1-naphthyl)-2-(1-naphthyl)-8-quinolinamine | CC1=C(C2=CC=CC=C2C=C1)NC=1C=CC=C2C=CC(=NC12)C1=CC=CC2=CC=CC=C12 | C30H22N2
